US08492378B2
ethyl 2-[(3-phenylpropanoyl)amino]isonicotinate
To a solution of ethyl 2-aminoisonicotinate (4.50 g, 27.08 mmol) and triethylamine (9.0 mL, 64.93 mmol) in tetrahydrofuran (100 mL) was added 3-phenylpropanoyl chloride (8.3 mL, 56.11 mmol) at 0° C., and the resulting mixture was stirred at room temperature for 1 hr. The reaction mixture was diluted with ethyl acetate, washed with water and saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (hexane/ethyl acetate=95/5-0/100) and recrystallized from hexane/ethyl acetate to give the title compound (6.85 g, yield 85%) as colorless crystals.

reactant | ethyl 2-aminoisonicotinate | 27.08 mmol, 4.50 g | NC=1C=C(C(=O)OCC)C=CN1 | C8H10N2O2
reactant | triethylamine | 64.93 mmol, 9.0 mL | C(C)N(CC)CC | C6H15N
reactant | 3-phenylpropanoyl chloride | 56.11 mmol, 8.3 mL | C1(=CC=CC=C1)CCC(=O)Cl | C9H9ClO
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 2-[(3-phenylpropanoyl)amino]isonicotinate | 6.85 g, yield 85% | C1(=CC=CC=C1)CCC(=O)NC=1C=C(C(=O)OCC)C=CN1 | C17H18N2O3
